US06727264B1
N-(3-{1-[5-(3-CHLOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure K and Scheme B1 using 5-chloro-1-(3-chlorophenyl)-1-pentanone and N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 427.1 (M+H)+.

reactant | 5-chloro-1-(3-chlorophenyl)-1-pentanone | ClCCCCC(=O)C1=CC(=CC=C1)Cl | C11H12Cl2O
reactant | N-[3-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
product | N-(3-{1-[5-(3-CHLOROPHENYL)-5-OXOPENTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | ClC=1C=C(C=CC1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O)=O | C25H31ClN2O2
